Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
cough, fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with h/o asthma, presents with fever, cough, left sided 
chest pain, and shortness of breath.  Pt was in USOH until 8d 
PTA, when he returned from a trip to ___.  He notes 1d 
of sore throat which resolved without intervention. 
. 
6d PTA, he developed acute onset of left side chest discomfort, 
productive cough, n/dry heaves x 1, and intermittent wheezing, 
which he treated with albuterol inhaler, with some releif.  He 
was seen at ___ and diagnosed with viral URI, without specific 
treatment.  His symptoms persisted, prompting him to present to 
___.  He notes no specific sick contacts, and has not been 
hospitalized recently.  He has not received a flu shot this 
season.
. 
In ED, VS= 100.8  140/57  107  18  97%RA.  Labs notable for 
leukocytosis, and mild renal insufficiency.  CXR with LLL 
opacification.   DFA and blood cultures sent.  He received 
levaquin 750mg iv x1, tamiflu x 1.  No documented fluids given, 
but 1L hanging on arrival to floor.  ECG with sinus tachycadria. 
 
.
ROS negative for headache, neck stiffness, myalgias, 
arthralgias, abdominal pain, diarrhea, constipation, dysuria, 
rash.  otherwise positive as above. 
 
Past Medical History:
- asthma, dx ~age ___, baseline PF unknown, no prior intubation, 
managed with albuterol inhaler prn only. 
- h/o spontaneous pneumothorax, left base, ___ ago, managed 
conservatively, without chest tube.  
. 
denies cad, cva, dm, pe, ckd, malignancy. 
 
Social History:
___
Family History:
father with premature CAD. 
 
Physical Exam:
VS:  97.3  130/60  99  18  97%RA  
GEN: ___ male, NAD, breathing comfortably. 
HEENT: PERRL, EOMI, oropharynx without erythema or exudate.  no 
cervical LAD. 
CV: tachy, regular, normal S1, S2, no m/r/g. 
PUL: decreased/coarse breath sounds at left base, otherwise, CTA 
bilaterally, good air movement, no wheezing.  
ABD: soft, NTND, +BS, no rebound/gaurding. 
EXT: no edema. 
SKIN: no rash. 
PSYCH: pleasant. 
 
Pertinent Results:
___ 11:22AM BLOOD WBC-18.2* RBC-5.13 Hgb-13.9* Hct-40.8 
MCV-80* MCH-27.0 MCHC-33.9 RDW-13.1 Plt ___
___ 11:22AM BLOOD Neuts-80* Bands-0 Lymphs-5* Monos-4 
Eos-10* Baso-0 Atyps-1* ___ Myelos-0
___ 11:22AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-NORMAL Microcy-1+ Polychr-OCCASIONAL
___ 11:22AM BLOOD Plt Smr-NORMAL Plt ___
___ 11:22AM BLOOD Glucose-123* UreaN-10 Creat-1.3* Na-135 
K-4.9 Cl-96 HCO3-25 AnGap-19
___ 11:25AM BLOOD Lactate-1.5 K-3.8
.
.
STUDIES: 
___ CXR (AP): (my read) ?LLL opacification. 
.
___ ECG 11:02:  sinus tachycardia, 109 bpm, NA, RBBB 
morphology, borderline LVH using V1, V5-6, no STE, TWI in V1-2, 
III, avF. 
. 
___ CXR PA/Lat/Decub: PA, lateral, and decubitus views were 
reviewed. 
Cardiomediastinal contours are normal. Moderate layering pleural 
effusion is on the left. Left lower lobe retrocardiac opacity is 
best seen in the 
decubitus view. This suggests the presence of a consolidation in 
the left 
lower lobe medially. There is no pneumothorax. 
.
___ CXR PA/Lat: Small-to-moderately large left pleural 
effusion with left perihilar consolidation. 
.
___ Ultrasound guided thoracentesis: Successful 
ultrasound-guided left pleural thoracentesis with removal of 280 
mL of cloudy, straw-colored fluid. Fluid was sent for laboratory 
analysis per ordering clinical team. 
Upright radiograph should be obtained in approximately ___ hours 
with a repeat radiograph in an additional 2 hours to evaluate 
for any ___ pneumothorax. These findings were 
communicated to the ordering physician, ___ on date 
of exam at 10:45 a.m. 
.
___ CXR (2 hours after procedure): Followup of the patient 
after ultrasound-guided thoracocentesis for the presence of 
pneumothorax.  
PA and lateral upright chest radiograph were reviewed in 
comparison to 
___. There is slight interval decrease in the 
amount of left pleural effusion which is still present, 
small-to-moderate and also seen along the major fissure. There 
is no evidence of pneumothorax as seen on the current study. The 
left basal consolidation is unchanged. The right lung is clear. 
There is no evidence of right pleural effusion. 
.
___ CXR (5 hours after procedure): Pending

___ 10:40AM PLEURAL ___ RBC-9800* Polys-93* 
Lymphs-3* Monos-2* Eos-1* Baso-1*
___ 10:40AM PLEURAL TotProt-5.1 Glucose-56 LD(LDH)-1548
.
___ 9:29 am PLEURAL FLUID

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

___ 06:30AM BLOOD WBC-11.0 RBC-4.42* Hgb-11.8* Hct-36.0* 
MCV-82 MCH-26.7* MCHC-32.8 RDW-12.7 Plt ___
___ 07:05AM BLOOD WBC-13.4* RBC-4.87 Hgb-13.0* Hct-39.8* 
MCV-82 MCH-26.7* MCHC-32.7 RDW-12.8 Plt ___
___ 06:15AM BLOOD WBC-14.5* RBC-4.86 Hgb-13.1* Hct-39.8* 
MCV-82 MCH-26.8* MCHC-32.8 RDW-12.6 Plt ___
___ 11:22AM BLOOD WBC-18.2* RBC-5.13 Hgb-13.9* Hct-40.8 
MCV-80* MCH-27.0 MCHC-33.9 RDW-13.1 Plt ___
___ 06:30AM BLOOD Neuts-69.1 Lymphs-12.1* Monos-6.5 
Eos-11.9* Baso-0.3
___ 07:05AM BLOOD Neuts-69.9 Lymphs-10.5* Monos-5.3 
Eos-14.0* Baso-0.2
___ 06:15AM BLOOD Neuts-71* Bands-3 Lymphs-5* Monos-8 
Eos-13* Baso-0 ___ Myelos-0
___ 11:22AM BLOOD Neuts-80* Bands-0 Lymphs-5* Monos-4 
Eos-10* Baso-0 Atyps-1* ___ Myelos-0
___ 10:30AM BLOOD ___ PTT-26.1 ___
 
Brief Hospital Course:
___ with h/o asthma, history of spontaneous PTX, admitted with 6 
days of subjective fever, productive cough, left side chest 
discomfort, and CXR with ?LLL pneumonia.  

# Pneumonia, likely caused by aspiration. Further history 
revealed that his pain and symptoms started the day after 
episodes of dry heaves and vomiting. The diagnosis of aspiration 
pneumonia is supported by leukocytosis, fever, productive cough, 
and LLL opacification on film. DFA to evaluate for flu was 
performed x 2; the first showed insufficient columnar cells, and 
the second showed too many polymononuclear cells; viral culture 
was negative at the time of discharge, so Tamiflu and droplet 
precautions were discontinued. CXR revealed no pneumothorax, but 
a parapneumonic effusion in the left lower lobe (see below). He 
was started on levofloxacin on ___, and clindamycin was added 
on ___. He will continue both antibiotics until ___. At the 
time of discharge, his white blood cell count had trended down 
and he felt clinically much improved. He never required oxygen 
during this hospitalization.

# Parapneumonic effusion. PA/Lat/Decub film on ___ 
demonstrated a layering free-flowing pleural effusion. However, 
the patient had persistent fevers during his hospital course, so 
sampling of the effusion was indicated. The gram stain of his 
pleural fluid was negative (although was exudative, consistent 
with a parapneumonic effusion). He will require serial chest 
x-rays to ensure resolution of the effusion. If his effusion 
persists at his next follow up appointment, he may need 
readmission for further procedures to address the pleural 
effusion.  

# Eosinophilia. Had persistent eosinophilia noted on CBC/diff. 
Unclear what baseline is. Not thought to be contributing to 
current clinical picture (and present on admission prior to the 
administration of antibiotics). ___ be related to atopy given 
history of asthma. He will require further outpatient evaluation 
of the eosinophilia. 

# Asthma. No sigificant wheezing on exam.  He was continued on 
home regimen of albuterol inhaler PRN and discharged with a 
prescription. 

# Acute renal failure. Mild rise in creatinine to 1.3 on 
admission, likely ___ poor po intake. Resolved with 1L IV fluid. 


# Liver lesion. Noted on informal ultrasound ___. Needs 
outpatient formal liver ultrasound to better characterize. 
Deferred to outpatient providers.

Given the upcoming holiday weekend, he was discharged home on 
___ oral antibiotics. At the time of discharge, he was 
afebrile (but had had a temperature of 101.6F within 24 hours), 
ambulatory, and satting well. He was specifically instructed to 
return to the ED if he felt worse, had worsened pain, shortness 
of breath, or worsening fevers. He has an appointment in the 
___ clinic on ___ for repeat CXR, repeat CBC (to 
evaluate white blood cell count), and general assessment of his 
clinical status. 
 
Medications on Admission:
- albuterol inhaler prn. 
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheezing.
Disp:*1 inhaler* Refills:*3*
2. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 7 days.
Disp:*7 Tablet(s)* Refills:*0*
3. Clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) for 7 days.
Disp:*28 Capsule(s)* Refills:*0*
4. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Bacterial pneumonia, likely aspiration
- Eosinophilia

Secondary:
- Asthma

 
Discharge Condition:
Stable, ambulatory, on room air

 
Discharge Instructions:
You were admitted to the hospital with fever, cough, and left 
chest pain. You were found to have pneumonia, with a small fluid 
collection in the left lower lung. We were able to take a small 
sample of the fluid collection, which showed many inflammatory 
cells, but no bacteria. 

The following changes were made to your medications:
1. You were started on a course of the antibiotics levofloxacin 
and clindamycin, which you will take for another 7 days. 
 
If you have symptoms of worsening chest pain, shortness of 
breath, fevers, or other worrisome symptoms please contact your 
primary care physician, or return to the emergency department. 
You have follow up scheduled on ___, for a 
repeat chest x-ray and blood work.
 
Followup Instructions:
___